US06057316
4-(2,3-dimethyl-1-oxa-9-thia-cyclopenta[b]fluoren-4-yl)-phenyl methyl ether
Tin tetrachloride (7.6 mL, 65.2 mmol) was added dropwise to a -78° C., stirred solution of benzo[b]thiophen-2-yl-(2,3-dimethyl-furan-5-yl)-methane (3.96 g, 16.3 mmol) and anisoyl chloride (3.07 g, 17.93 mL) in carbon disulfide (100 mL) under a try N2 atmosphere over a period of 30 min. After the addition completed, the solution was allowed to warm to 0° C. After 9 h. the reaction mixture was carefully quenched with and further diluted with water (350 mL). Aqueous mixture was extracted with ethyl ether. The ethyl ether extracts were washed with water, 10% aqueous sodium bicarbonate and water and dried with brine. Silica gel (90 mL) was added. Solvents were removed and the silica adsorbate was flash chromatographed (eluent 99:1 petroleum ether:ethyl acetate) to provide the title compound as a light yellow solid (1.1 g, 25%): NMR (CDCl3); δ7.81 (s, 1H), 7.76 (d, J=8, Hz, 1H), 7.36-7.24 (m, 3H), 7.11-7.00 (m, 3H), 6.85 (d, J=8 Hz, 1H), 3.96 (s, 3H), 2.37 (s, 3H), 1.55 (s, 3H); MS (EI): [M+], 358.

reactant | Tin tetrachloride | 65.2 mmol, 7.6 mL | [Sn](Cl)(Cl)(Cl)Cl
reactant | benzo[b]thiophen-2-yl-(2,3-dimethyl-furan-5-yl)-methane | 16.3 mmol, 3.96 g | S1C2=C(C=C1CC1=CC(=C(O1)C)C)C=CC=C2 | C15H14OS
reactant | anisoyl chloride | 17.93 mL, 3.07 g | C(C1=CC=C(C=C1)OC)(=O)Cl | C8H7ClO2
solvent | carbon disulfide | 100 mL | C(=S)=S | CS2
product | 4-(2,3-dimethyl-1-oxa-9-thia-cyclopenta[b]fluoren-4-yl)-phenyl methyl ether | 1.1 g, 25% | COC1=CC=C(C=C1)C1=C2C(=CC=3SC4=CC=CC=C4C13)OC(=C2C)C | C23H18O2S
